US06022987
In the same apparatus and procedures as EXAMPLE 2 above, 22.88 ml (256 mmol) of benzene and 0.80 g (6.0 mmol) of aluminum chloride were alkylated with 9.04 g (17.2 mmol) of (trichloromethyl)trichlorosilane under dry nitrogen atmospheric pressure for 1 hr at 50° C. The aluminum chloride catalyst was quenched with POCl3 and then stirred for another 1 hour to complete the deactivation. Freshly distilled hexane(50 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic soultion. After hexane and benzene were distilled, recrystallization from chloroform yielded 1.23 g of (triphenylmethyl)trichlorosilane (mp; 195-7: E, yield; 19%).

reactant | benzene | 256 mmol, 22.88 ml | C1=CC=CC=C1 | C6H6
reactant | aluminum chloride | 6.0 mmol, 0.80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (trichloromethyl)trichlorosilane | 17.2 mmol, 9.04 g | ClC(Cl)(Cl)[Si](Cl)(Cl)Cl | CCl6Si
product | (triphenylmethyl)trichlorosilane | 1.23 g, yield; 19% | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[Si](Cl)(Cl)Cl | C19H15Cl3Si
